US05389648
The 2-bromo-4'-chloropropiophenone (58.1 g), which had been prepared in Example 5, and triphenyl phosphine (61.6 g) were dissolved in 250 ml of acetonitrile. The resulting solution was heated under reflex for 1.5 hours. After the completion of the reaction, the reaction mixture was cooled with ice, and the crystalline material thus formed was separated by filtration, washed with cold acetonitrile and dried in air to give triphenyl[1-(4-chlorophenyl)-1-oxo-2-propyl]-phosphonium bromide (79.0 g). mp 258°-258.5° C.

reactant | 2-bromo-4'-chloropropiophenone | 58.1 g | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
reactant | triphenyl phosphine | 61.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | triphenyl[1-(4-chlorophenyl)-1-oxo-2-propyl]-phosphonium bromide | 79.0 g | [Br-].C1(=CC=CC=C1)[P+](C(C(=O)C1=CC=C(C=C1)Cl)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H23ClOP.BrH/c1-21(27(29)22-17-19-23(28)20-18-22)30(24-11-5-2-6-12-24,25-13-7-3-8-14-25)26-15-9-4-10-16-26;/h2-21H,1H3;1H/q+1;/p-1
